US08283353B2
4′-({4-[4-hydroxy-4-(tetrahydro-2H-pyran-4-yl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a mixture of magnesium (0.10 g) and tetrahydrofuran (1 mL) were added 4-chlorotetrahydro-2H-pyran (0.050 g) and 1,2-dibromoethane (10 drops) under an argon atmosphere. The mixture was heated to initiate the reaction, a solution of 4-chlorotetrahydro-2H-pyran (0.46 g) in tetrahydrofuran (5 mL) was added dropwise at 50° C., and the mixture was stirred at 50° C. for 4 hr. The reaction mixture was cooled to 0° C., a solution of 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.50 g) in tetrahydrofuran (5 mL) was added dropwise, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography and HPLC to give the title compound as a colorless solid (0.12 g, 20%).

reactant | magnesium | 0.10 g | [Mg] | Mg
reactant | 4-chlorotetrahydro-2H-pyran | 0.050 g | ClC1CCOCC1 | C5H9ClO
reactant | 4-chlorotetrahydro-2H-pyran | 0.46 g | ClC1CCOCC1 | C5H9ClO
reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.50 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | hydrochloric acid | 1 M | Cl | ClH
catalyst | 1,2-dibromoethane | 10 drops | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4′-({4-[4-hydroxy-4-(tetrahydro-2H-pyran-4-yl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.12 g, 20% | OC1(CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCOCC2 | C33H37N5O3
